US05512433
A solution of 5.16 grams of 8-bromotheophylline and 5.15 grams of 5-amino-1 pentanol in 18 ml of p-xylene was refluxed for 18 hours. The reaction solution was allowed to cool and upon cooling to room temperature formed a solid/liquid mixture. The xylene was decanted and the solid was washed with pentane (3×40 ml). The resulting solid was stirred in 20 ml of water for 30 minutes and filtered to collect the solid material. The collected solid material was washed with water (3×20 ml), and dried to provide 3.73 g of 8-(5-hydroxypentylamino)theophylline. To a solution of 1.12 g of 8-(5-hydroxypentylamino)theophylline in 15 ml of anhydrous N,N-dimethylformamide (DMF) was added 0.516 g of succinic anhydride and 0.2 g of 4-dimethylamino pyridine (DMAP). The mixture was stirred with a magnetic stirrer overnight at room temperature under anhydrous conditions. The colorless solid that precipitated was collected by vacuum filtration, washed with dichloromethane and air dried to provide 1.20 g of theophylline-8-N-(5-hydroxypentylamino)-O-succinic acid ester. This solid was recrystallized from a boiling 1:1 propanol/water mixture and dried over calcium sulfate to provide a colorless solid.

reactant | 8-bromotheophylline | 5.16 grams | BrC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C7H7BrN4O2
reactant | 5-amino-1 pentanol | 5.15 grams | NCCCCCO | C5H13NO
solvent | p-xylene | 18 ml | CC=1C=CC(=CC1)C | C8H10
product | 8-(5-hydroxypentylamino)theophylline | 3.73 g | OCCCCCNC1=NC=2N(C(N(C)C(C2N1)=O)=O)C | C12H19N5O3
